US05198451
A solution of n-butyllithium in hexanes (32.2 ml, 2.5 M) was added dropwise under a nitrogen atmosphere to ethylene glycol (60 ml) at 10° C. When addition was complete the mixture was stirred for 0.5 h at room temperature. A solution of 3-bromo-1-(3-methoxyphenyl)-1-(2-methylphenyl)-1-propene (24.4 g, 77 mmol) in toluene (50 ml) was added and the reaction mixture was stirred at room temperature for 4 days and at 65° C. for 6 h. The solvent was evaporated in vacuo, water (250 ml) was added and the mixture was extracted with ethyl acetate (2×200+100 ml). The combined organic phases was dried over magnesium sulphate and the solvent was evaporated in vacuo. Flash chromatography of the residue on silica gel (320 g) using a mixture of cyclohexane and ethyl acetate gradient as eluent provided 16.6 g (72%) of 2-(3-(3-methoxyphenyl)-3-(2-methylphenyl)-2-propen-1-yloxy)ethanol.

reactant | n-butyllithium | C(CCC)[Li]
reactant | ethylene glycol | 60 ml | C(CO)O | C2H6O2
reactant | 3-bromo-1-(3-methoxyphenyl)-1-(2-methylphenyl)-1-propene | 77 mmol, 24.4 g | BrCC=C(C1=C(C=CC=C1)C)C1=CC(=CC=C1)OC | C17H17BrO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-(3-methoxyphenyl)-3-(2-methylphenyl)-2-propen-1-yloxy)ethanol | 16.6 g, 72% | COC=1C=C(C=CC1)C(=CCOCCO)C1=C(C=CC=C1)C | C19H22O3
